US06872833B2
(+)-1-Oxa-8-aza-spiro[4.5]decane-8-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide
From (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester with 1-oxa-8-aza-spiro[4.5]decane trifluoroacetate and N-ethyldiisopropylamine in chloroform. [α]D20=+25.8° (c=1.01, CHCl3), ES-MS m/e (%): 434 (M+H+, 100).

reactant | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C19H18N2O5S
reactant | 1-oxa-8-aza-spiro[4.5]decane trifluoroacetate | FC(C(=O)O)(F)F.O1CCCC12CCNCC2
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-1-Oxa-8-aza-spiro[4.5]decane-8-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCC1(CCCO1)CC2)OC | C21H27N3O5S
